US04767743
D2. 2-methylheptanoyl chloride
Employing 5 g. of 2-methylheptanoic acid and 7.6 ml. of oxalyl chloride and using the procedure of Preparation A2, 3.3 g. of the desired product was obtained, b.p. 32°-34 ° C./0.6 torr.

reactant | 2-methylheptanoic acid | CC(C(=O)O)CCCCC | C8H16O2
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 2-methylheptanoyl chloride | CC(C(=O)Cl)CCCCC | C8H15ClO
